Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Large symptomatic right-sided thyroid nodule.

 
Major Surgical or Invasive Procedure:
1.  Right thyroid lobectomy and isthmusectomy.
2.  Intraoperative nerve monitoring.
3.  Intraoperative thyroid ultrasound.

 
History of Present Illness:
The patient is a pleasant ___ female who presented to 
the Endocrine Surgery Service after referral from Dr. ___ as 
the patient had an indeterminate thyroid nodule and did not want 
to undergo any further biopsies.The patient has compressive 
symptoms (dysphagia, intermittent SOB). 
The patient was consented to a right thyroid lobectomy and 
isthmusectomy and brought to the operating room with the 
above-stated procedure.

 
Past Medical History:
PMH
- varicose veins 
- diabetes mellitus
- hypercholesterolemia
- hypertension
- thyroid nodule

PSH
- Varicose Veins 

 
Social History:
___
Family History:
No history of thyroid cancer in the family. Her brother has 
prostate cancer.
 
Physical Exam:
GEN: AOx3 WN, WD in NAD
HEENT: NCAT, EOMI, anicteric, moderate swelling around incision, 
erythema surrounding incision improving, mild bruising around 
incision. 
CV: RRR
PULM: unlabored breathing with symmetric chest rise, no 
respiratory distress
ABD: soft, NT, ND, no mass, no hernia
EXT: WWP, no CCE, no tenderness, 2+ B/L ___

 
Brief Hospital Course:
___ with h/o HTN,DM who presented with large symptomatic 
right-sided thyroid nodule now s/p right thyroid lobectomy. She 
tolerated the procedure without complication. She was brought to 
the PACU for close monitoring before being transferred to the 
floor for continued observation. 
Postoperatively she had an episode of emesis when arriving to 
floor, reports related to dizziness while being transported. She 
remained hemodynamically stable at all times. At no point did 
she experience symptoms of hypocalcemia, such as ___ 
numbness or tingling. Similarly, she did not experience any 
difficulty breathing or swallowing. She had mild swelling around 
incision remained stable overnight. 
POD #1 Patient pain was well controlled on oral analgesics. Her 
diet was advanced as tolerated and she tolerated full liquids 
and soft solids, she was voiding independently, and ambulating 
without concern.  She was discharged home with follow-up 
instructions and verbalized good understanding.

 
Medications on Admission:
Medications 
- Glipzide 10mg 1 tab daily
- Lisinopril 2.5mg 1 tab daily 
- Metformin 500mg 1 tab daily 
- Ranitidine HCl 150mg capsule BID
- Simvastatin 20mg 1 tab daily 
OTC
- Aspirin 81mg chewable tablet daily
- Cetirizine 10mg 1 tablet daily 
- Naproxen 500mg 1 tablet daily 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  GlipiZIDE 10 mg PO DAILY  
3.  Lisinopril 2.5 mg PO DAILY  
4.  MetFORMIN (Glucophage) 500 mg PO DAILY  
5.  Ranitidine 150 mg PO BID  
6.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Large symptomatic right-sided thyroid nodule.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted to ___ overnight for observation following 
your surgery.You did well postoperatively and were discharged 
home once you were eating, on oral medications, walking, and 
completing daily activities as normal. 
Medications: You may restart all your usual home medications.For 
pain control you may take acetaminophen (Tylenol)as directed.

Symptoms of low calcium: If you develop tingling or numbness 
around your mouth, fingertips or legs, this may be a sign of a 
low calcium and you should call our office. If you develop 
severe symptoms,please go to emergency room.

Wound care:You may shower normally. Allow warm soapy water to 
run over the wound, rinse and pat dry gently. There is no need 
to keep a dressing over the wound. Do not apply creams or 
ointments. Do not submerge the wound in a swimming pool or bath 
until cleared at your follow up visit. Do  not pull off the 
steri strip tapes--these will fall off by themselves over the 
next ___ weeks.

Diet:You may resume your regular home diet without restriction. 
You should use stick to foods that do not upset your stomach. 
You may need to start with small meals first and may not feel 
very hungry at first. This will improve over time. You may 
supplement your diet with protein shakes as needed if you do not 
feel you are taking in enough nutrition.

Activity:You may resume all of your normal home activities, 
except for straining or lifting heavy weight. We recommend you 
resume walking, exercise, bathing, per your normal regimen. 

Warning signs:
You should contact our clinic or return to the ED immediately if 
you experience any of the following signs or symptoms:
Fever above 100.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 
or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for follow up 
following your discharge from the hospital. 

Best wishes,
Your ___ Care Team

 
Followup Instructions:
___